US04273782
1-(4-Cyanobenzyl)-3-(1-imidazolylmethyl)indole (1.0 g) was dissolved in ethanol (10 ml) and 30% hydrogen peroxide (5 ml) and 6 N sodium hydroxide (5 ml) were added. The resulting mixture was stirred for 2 hours at 50° C. and then poured into water. The solid product was filtered off, washed with water and crystallised from ethanol to give 1-(4-carbamoylbenzyl)-3-(1-imidazolylmethyl)indole (0.65 g), m.p. 173°-175° C. Found: C, 72.63; H, 5.54; N, 16.29. C20H18N4O4 requires: C, 72.71; H, 5.49; N, 16.96.

reactant | 1-(4-Cyanobenzyl)-3-(1-imidazolylmethyl)indole | 1.0 g | C(#N)C1=CC=C(CN2C=C(C3=CC=CC=C23)CC=2NC=CN2)C=C1 | C20H16N4
reactant | hydrogen peroxide | 5 ml | OO | H2O2
reactant | sodium hydroxide | 6 N, 5 ml | [OH-].[Na+]
reactant | water | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 1-(4-carbamoylbenzyl)-3-(1-imidazolylmethyl)indole | 0.65 g | C(N)(=O)C1=CC=C(CN2C=C(C3=CC=CC=C23)CC=2NC=CN2)C=C1 | C20H18N4O
